US05036064
In a second flask, 64 mg of (7R)-7-aminocephalosporanic acid and 124 mg of N,O-bis-(trimethylsilyl)acetamide in 1 ml of N,N-dimethylformamide were stirred at 20° C. for 20 minutes. A clear solution was obtained which was added at 0° C. to the solution in the first flask. The reaction mixture was stirred at 0° C. for 1 hour and at 20° C. for 2 hours. The precipitate was filtered off under suction and the filtrate was partitioned between 2% aqueous sodium hydrogen carbon solution and ethyl acetate. The aqueous phase was adjusted to pH 7 with 3N hydrochloric acid, concentrated in a vacuum to a volume of about 5 ml and the concentrated solution was chromatographed on MCI gel CHP2OP (Mitsubishi Chemical Industries Ltd.). Elution was carried out first with 1% aqueous acetic acid and then with mixtures of 1% aqueous acetic acid/methanol, using increasing amounts of methanol. By lyophilization of the product fractions, which were concentrated in a vacuum, there was obtained (6R,7R)-3-(acetoxymethyl)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[[(3,4-dihydroxyphenyl)sulphonyl)]methoxy]imino]acetamido]-8-oxo-5-thia-1azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a white powder.

reactant | (7R)-7-aminocephalosporanic acid | 64 mg | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 8-oxo-5-thia-1azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | O=C1CC2SCC=C(N12)C(=O)O | C7H7NO3S
